US20010027196A1
2-Amino-4-(2-fluoro-phenyl)-6-(2-pyridin-2-yl-ethoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-(2-fluoro-phenyl)-6-methanesulfinyl-pyrimidine-5-carbonitrile, (2-pyridyl)ethanol and DBU in DME. ES-MS m/e (%): 336 (M+H+, 100).

reactant | 2-amino-4-(2-fluoro-phenyl)-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=C(C=CC=C1)F)C#N)S(=O)C | C12H9FN4OS
reactant | (2-pyridyl)ethanol | N1=C(C=CC=C1)C(C)O | C7H9NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(2-fluoro-phenyl)-6-(2-pyridin-2-yl-ethoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=C(C=CC=C1)F)C#N)OCCC1=NC=CC=C1 | C18H14FN5O
